US04336375
7-[2-(4-Ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-[4-amino-5-(1-pyrazolyl)-1,2,4-triazol-3-ylthiomethyl]-3-cephem-4-carboxylic acid
A suspension of 294.78 mg. of 7-[2-(4-ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-(hydroxymethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid, 3-acetate and 136.6 mg. of 4-amino-5-(1-pyrazolyl)-4H-1,2,4-triazole-3-thiol in 10 ml. of water is adjusted to pH 6.5 with an aqueous solution of sodium bicarbonate. A 5 ml. portion of acetone is added producing solution. This solution is stirred at 60°-63° C. for 5 hours, then stripped free of acetone under reduced pressure, cooled to room temperature and filtered. The filtrate is acidified to pH 2.0 with 2 N hydrochloric acid. The resulting solid is filtered and dried giving 192 mg. of the desired product.

reactant | 7-[2-(4-ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-(hydroxymethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CO)C1=CC=C(C=C1)O)=O)=O | C23H25N5O9S
reactant | 4-amino-5-(1-pyrazolyl)-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1N1N=CC=C1)S | C5H6N6S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 7-[2-(4-Ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-[4-amino-5-(1-pyrazolyl)-1,2,4-triazol-3-ylthiomethyl]-3-cephem-4-carboxylic acid | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(N2N)N2N=CC=C2)C(=O)O)C1=O)C1=CC=C(C=C1)O)=O)=O | C28H29N11O8S2
